US08247430B2
(2-chloro-(3-pyridyl))-N-(4-phenoxyphenyl)carboxamide
2-Chloronicotinoyl chloride (9.15 g, 0.052 mol) was added to a stirred solution of 4-phenoxyaniline (10 g, 0.054 mol) and DIEA (10 ml, 0.057 mol) in CH2Cl2 (100 ml) at RT. The mixture was stirred for 48 h before removal of solvent under reduced pressure. The resulting residue was dissolved in EtOAc and washed several times with saturated NaHCO3 aqueous solution and brine, respectively. The organic layer was dried over Na2SO4 and evaporated to leave a solid. This material was re-crystallized from EtOAc/Hexane mixture, followed by filtration and rinsing with Et2O to give the desired compound as a white solid. MS m/z: 325 (M+1); 323 (M−1).

reactant | 2-Chloronicotinoyl chloride | 0.052 mol, 9.15 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | 4-phenoxyaniline | 0.054 mol, 10 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | DIEA | 0.057 mol, 10 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-chloro-(3-pyridyl))-N-(4-phenoxyphenyl)carboxamide | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C18H13ClN2O2
